US07906654B2
2-(4-bromo-3-methylphenyl)-2-methylpropanenitrile
To a stirred solution of 2-(4-bromo-3-methylphenyl)acetonitrile (11.2 g, 53.3 mmol) in anhydrous DMF (125 mL) is added methyl iodide (13.2 mL, 213 mmol). The solution is cooled to 0° C. and sodium hydride (60% susp. in oil, 3.84 g, 160 mmol) is added in small portions over 20 min. The reaction mixture is then left stirring and slowly warmed up to room temperature for 18 h. At 0° C., water (500 mL) is then slowly added then extracted with ethyl acetate containing 10% of hexanes. The organic layer is separated, dried with MgSO4, filtered and concentrated under reduced pressure to provide the expected product 2-(4-bromo-3-methylphenyl)-2-methylpropanenitrile (12.6 g, 99%) as a clear yellow oil which is used in the next step without further purification. 1H NMR (400 MHz, CHLOROFORM-D) δ ppm 1.71 (s, 6H) 2.43 (s, 3H) 7.14 (dd, J=8.40, 2.34 Hz, 1H) 7.34 (d, J=2.54 Hz, 1H) 7.53 (d, J=8.40 Hz, 1H)

reactant | 2-(4-bromo-3-methylphenyl)acetonitrile | 53.3 mmol, 11.2 g | BrC1=C(C=C(C=C1)CC#N)C | C9H8BrN
reactant | methyl iodide | 213 mmol, 13.2 mL | CI | CH3I
reactant | sodium hydride | 160 mmol, 3.84 g | [H-].[Na+]
reactant | water | 500 mL | O | H2O
reactant | DMF | 125 mL | CN(C)C=O | C3H7NO
product | 2-(4-bromo-3-methylphenyl)-2-methylpropanenitrile | 12.6 g, 99% | BrC1=C(C=C(C=C1)C(C#N)(C)C)C | C11H12BrN
